### PR TITLE
[Merged by Bors] - refactor: change MvQPF to use bundled inheritance

### PR DESCRIPTION
**Pull request by alexkeizer**
There is a clear hierarchy of the type classes that apply to multivariate type functions `(F : TypeVec n -> Type)`. Namely, every `MvQPF` is a `LawfulMvFunctor` and every `LawfulMvFunctor` is a `MvFunctor`.

This commit changes to use bundled inheritance (i.e., `extends`) for `MvQPF`, so that we don't have to repeat the `[MvFunctor F]` assumption every time we want `[MvQPF F]`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — COMMENTED** [review]
From the paper

> With these definitions and notation, the definition of a multivariate QPF is almost exactly the same as the definition of a unary one:

where the univariate one does not extend `Functor`:

https://github.com/leanprover-community/mathlib4/blob/64da86b2282d68ff0478b2b3f210fcd92bc02ca9/Mathlib/Data/QPF/Univariate/Basic.lean#L51-L56

so your new version breaks the symmetry:

https://github.com/leanprover-community/mathlib4/blob/64da86b2282d68ff0478b2b3f210fcd92bc02ca9/Mathlib/Data/QPF/Multivariate/Basic.lean#L85-L90

I don't think we should break this symmetry; which is either a vote against this change, or a vote in favor of simultaneously refactoring the univariate one.

**Comment by eric-wieser** [comment]
@digama0, can you comment on this?

**Comment by alexkeizer** [comment]
> I don't think we should break this symmetry; which is either a vote against this change, or a vote in favor of simultaneously refactoring the univariate one.

Fair point. I do think the bundled version has significantly nicer ergonomics, so for me that would mean a vote in favor of a simultaneous refactor

File: Mathlib/Data/QPF/Multivariate/Constructions/Quot.lean [hunk 1]
```diff
@@ -28,20 +28,16 @@ variable {F : TypeVec.{u} n → Type u}
...
 surjective functions -/
-def quotientQPF (FG_abs_repr : ∀ {α} (x : G α), FG_abs (FG_repr x) = x)
-    (FG_abs_map : ∀ {α β} (f : α ⟹ β) (x : F α), FG_abs (f <$$> x) = f <$$> FG_abs x) : MvQPF G
-    where
+def quotientQPF (F) [q : MvQPF F]
+                {G : TypeVec.{u} n → Type u} [MvFunctor G]
+                {FG_abs : ∀ {α}, F α → G α}
+                {FG_repr : ∀ {α}, G α → F α}
+                (FG_abs_repr : ∀ {α} (x : G α), FG_abs (FG_repr x) = x)
+                (FG_abs_map : ∀ {α β} (f : α ⟹ β) (x : F α), FG_abs (f <$$> x) = f <$$> FG_abs x) :
```
Comment (digama0) [inline Mathlib/Data/QPF/Multivariate/Constructions/Quot.lean:39]:
```suggestion
def quotientQPF (F) [q : MvQPF F]
    {G : TypeVec.{u} n → Type u} [MvFunctor G]
    {FG_abs : ∀ {α}, F α → G α}
    {FG_repr : ∀ {α}, G α → F α}
    (FG_abs_repr : ∀ {α} (x : G α), FG_abs (FG_repr x) = x)
    (FG_abs_map : ∀ {α β} (f : α ⟹ β) (x : F α), FG_abs (f <$$> x) = f <$$> FG_abs x) :
```
mathlib doesn't do "visual indent"

File: Mathlib/Data/QPF/Multivariate/Constructions/Comp.lean [hunk 2]
```diff
@@ -55,34 +54,46 @@ protected theorem mk_get (x : (Comp F G) α) : Comp.mk (Comp.get x) = x := rfl
...
-  P := MvPFunctor.comp (P F) fun i ↦ P <| G i
-  abs := Comp.mk ∘ (map fun i ↦ abs) ∘ abs ∘ MvPFunctor.comp.get
-  repr {α} := MvPFunctor.comp.mk ∘ repr ∘
-              (map fun i ↦ (repr : G i α → (fun i : Fin2 n ↦ Obj (P (G i)) α) i)) ∘ Comp.get
-  abs_repr := by intros; simp only [(· ∘ ·), comp.get_mk, abs_repr, map_map,
-                                    TypeVec.comp, MvFunctor.id_map', Comp.mk_get]
-  abs_map := by intros; simp only [(· ∘ ·)]; rw [← abs_map]
-                simp only [comp.get_map, map_map, TypeVec.comp, abs_map, map_mk]
+section
+  variable [MvFunctor F] [∀ i, MvFunctor <| G i]
```
Comment (digama0) [inline Mathlib/Data/QPF/Multivariate/Constructions/Comp.lean:58]: sections are not indented

**Comment by digama0** [comment]
I have no opinion on the main change, it seems reasonable and I guess it decreases verbosity? It should not be bundled with the function `F` itself, because this needs to be constructible using lambda or equivalent for the (eventual) automation to make use of it, but `MvFunctor` vs `MvQPF` doesn't make much difference.

**Comment by alexkeizer** [comment]
I've now refactored the univariate QPFs as well, and fixed the formatting.

This change indeed reduces verbosity, but that is not my main motivation.
The reason I originally made the refactor (in alexkeizer/QpfTypes) mostly has to with inference problems of the form `[forall i, MvQpf (Gs i)]`, where `Gs : Fin n -> TypeVec m -> Type*`. To work around some issues, I introduces a surrogate typeclass of the form
```lean
class VecMvQpf {n : Nat} (v : Fin n -> TypeVec m -> Type*) where
      prop : ∀ i, Qpf (v i)
```
Together with instances that essentially do induction on `i`. 

Having to deal with unbundled typeclass assumptions was quite cumbersome in this scenario.

**Comment by alexkeizer** [comment]
I've just merged master and resolved the conflicts. @digama0 since you said the changes seem reasonable, and nobody has since objected, would you feel comfortable merging it?
If not, what can I do to make this easier to merge?

**Review by YaelDillies — APPROVED** [review]
This looks reasonable to me.

maintainer merge

**Comment by fpvandoorn** [comment]
bors merge
